US07402585B2
(5-amino-1H-pyrazol-3-yl)acetic acid (3.02 g, 0.022 mmol) in methanol (32 ml) was added to a mixture of methanol (32 ml) and thionyl chloride (3.15 ml) at 0° C. The resulting mixture was stirred for 18 hours, evaporated and the residue purified by chromatography on silica gel, eluting with methanol:ammonia:dichloromethane (9:1:90), to yield methyl (5-amino-1H-pyrazol-3-yl)acetate (1.58 g, 48% yield):

reactant | (5-amino-1H-pyrazol-3-yl)acetic acid | 0.022 mmol, 3.02 g | NC1=CC(=NN1)CC(=O)O | C5H7N3O2
reactant | thionyl chloride | 3.15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 32 ml | CO | CH4O
reactant | methanol | 32 ml | CO | CH4O
product | methyl (5-amino-1H-pyrazol-3-yl)acetate | 1.58 g, 48% yield | NC1=CC(=NN1)CC(=O)OC | C6H9N3O2
